US04145431
B. 4-(2-Propenylthio)-o-phenylenediamine
To a solution of 4 g of 2-nitro-5-(2-propenylthio)aniline in 200 ml of benzene there is added 4.0 g of activated iron (Sandler and Karo, Organic Functional Group Preparations, Vol. 1, 1968, pp. 339-340), and the mixture is refluxed for three hours. During the reflux period, water is added in small portions every 15 minutes until a total of 20 ml is reached. The solvent is decanted. The iron sludge is extracted with hot benzene and the combined dried benzene fractions are evaporated in vacuo. The resulting residue is stored under nitrogen at 0°.

reactant | 2-nitro-5-(2-propenylthio)aniline | 4 g | [N+](=O)([O-])C1=C(N)C=C(C=C1)SCC=C | C9H10N2O2S
reactant | water | O | H2O
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
catalyst | iron | 4.0 g | [Fe] | Fe
product | 4-(2-Propenylthio)-o-phenylenediamine | C(C=C)SC1=CC(=C(C=C1)N)N | C9H12N2S
